US05143928
2-[5-[[3,5Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]hydrazinecarbothiamide, (Z)-
A mixture of 5-[(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methylthio)-4(5H)-thiazolone (6.13 g, 0.0169 mole) and thiosemicarbazide (1.53 g, 0.0169 mole) in ethanol (300 mL) is refluxed with stirring for 7 hours. After standing overnight at room temperature, the product is separated by filtration, washed with ethanol to give 5.78 g of a solid. It is recrystallized from DMF-methanol to give 3.4 g (47%) of pure 2-[5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]hydrazinecarbothiamide, (Z)-, mp 200°-202° C.

reactant | 5-[(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methylthio)-4(5H)-thiazolone | 0.0169 mole, 6.13 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)SC)=O | C19H25NO2S2
reactant | thiosemicarbazide | 0.0169 mole, 1.53 g | NNC(=S)N | CH5N3S
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-[5-[[3,5Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-2-thiazolidinylidene]hydrazinecarbothiamide | 5.78 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=NNC(N)=S)=O | C19H26N4O2S2
